US04214089
3-(p-Chlorobenzoyl)-3-(1-Methylimidazol-2-ylthio)Propionic Acid, Hydrobromide
A mixture of 3-bromo-3-(p-chlorobenzoyl)propionic acid (11.64 g., 0.04 m.) and 2-mercapto-1-methylimidazole (4.56 g., 0.04 m.) is dissolved in glacial acetic acid by warming on a steam bath. After filtration of a small amount of insoluble material the filtrate is evaporated. The residue is washed with ether and then treated with dimethoxyethane and the solid weighing 10 g. is collected. The crude material is recrystallized from acetonitrile. The pure compound melts at 173°-5°.

reactant | 3-bromo-3-(p-chlorobenzoyl)propionic acid | 11.64 g | BrC(CC(=O)O)C(C1=CC=C(C=C1)Cl)=O | C10H8BrClO3
reactant | 2-mercapto-1-methylimidazole | 4.56 g | SC=1N(C=CN1)C | C4H6N2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(p-Chlorobenzoyl)-3-(1-Methylimidazol-2-ylthio)Propionic Acid, Hydrobromide | Br.ClC1=CC=C(C(=O)C(CC(=O)O)SC=2N(C=CN2)C)C=C1 | InChI=1S/C14H13ClN2O3S.BrH/c1-17-7-6-16-14(17)21-11(8-12(18)19)13(20)9-2-4-10(15)5-3-9;/h2-7,11H,8H2,1H3,(H,18,19);1H
